US05387585
3.1. 88 g of 2-(chloromethyl)-4-hydrazinoquinazoline are suspended in 1.2 l of ethyl orthoformate. The suspension is heated (bath temp. 125° C.) while stirring and the resulting ethanol is distilled off. After 1 h., the mixture is cooled to 15° C., the precipitate is filtered off and washed with 100 ml of diethyl ether. The product is dried in a vacuum. 80 g of crude 5-(chloromethyl)-1,2,4-triazolo [4,3-c]quinazoline are obtained. The filtrate is concentrated in a vacuum and the residue is boiled in 20 ml of ethanol. The mixture is cooled to 0° C., filtered, the filter cake is washed with diethyl ether and the crystals are dried in a vacuum. A second portion of 5.3 g of crude 5-(chloromethyl)-1,2,4-triazolo[4,3-c]quinazoline is obtained. The two crude crystallizates (together 85.3 g) are stirred in 8.5 ml of dioxan at 85° C. for 1 h. The insoluble constituent is filtered off and the filtrate is concentrated to about 300 ml in a vacuum. The suspension is cooled, filtered and the filter cake is washed with 100 ml of diethyl ether. 66 g of 5-(chloromethyl)-1,2,4-triazolo [4,3-c]quinazoline of m.p. 189° C. (dec.) are obtained. A second portion of 2.5 g of 5-(chloromethyl)-1,2,4-triazolo[4,3-c]quinazoline is obtained after concentration of the filtrate.

reactant | 2-(chloromethyl)-4-hydrazinoquinazoline | 88 g | ClCC1=NC2=CC=CC=C2C(=N1)NN | C9H9ClN4
reactant | ethyl orthoformate | 1.2 l | C(OCC)([O-])[O-]
product | 5-(chloromethyl)-1,2,4-triazolo [4,3-c]quinazoline | 80 g | ClCC1=NC=2C=CC=CC2C=2N1C=NN2 | C10H7ClN4
